US05646176
Preparation 10. (±)-cis-3-Acetyloxy-4-phenylazetidin-2-one
To a 1 L, 3-necked round bottom flask equipped with a thermometer, magnetic stirrer and dropping funnel was added hydrobenzamide (30.00 g, 100.5 mmol) and ethyl acetate (150 mL). With stirring and under a blanket of argon, the reaction mixture was cooled to 5° C. and triethylamine (16.8 mL, 121 mmol) was added. A solution of acetoxyacetyl chloride (12.4 mL, 116 mmol) in ethyl acetate (300 mL) was then added dropwise over a 90 min period. After 16 h at this temperature, the reaction mixture was allowed to warm to 20° C. (1.5 h) and transferred to a separatory funnel. The organic layer was washed successively with aqueous NH4Cl (sat) (150 mL, 100 mL), aqueous NaHCO3 (saturated) (120 mL) and brine (120 mL). For purposes of characterization, the title compound can be isolated at this stage by drying the organic phase over MgSO4, filtering, and removing the solvent in vacuo. This provided (±)-cis-3-acetyloxy-1-[(phenyl)(benzylidenimino)methyl]-4-phenylazetidin-2-one in quantitative crude yield as a red glass.

reactant | hydrobenzamide | 100.5 mmol, 30.00 g | C1=CC=C(C=C1)/C=N/C(/N=C/C2=CC=CC=C2)C3=CC=CC=C3 | C21H18N2
reactant | triethylamine | 121 mmol, 16.8 mL | C(C)N(CC)CC | C6H15N
reactant | acetoxyacetyl chloride | 116 mmol, 12.4 mL | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | (±)-cis-3-Acetyloxy-4-phenylazetidin-2-one | C(C)(=O)O[C@@H]1C(N[C@@H]1C1=CC=CC=C1)=O | C11H11NO3
